US06096735
1-[2-Methyl-4-(2-chloroacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.8 g) is dissolved in dimethylformamide (5 ml), and thereto are added potassium carbonate (0.47 g), sodium iodide (0.51 g) and 5,6,7,8-tetrahydro-1-naphthol (0.40 g), and the mixture is stirred at 60° C. for three hours. To the reaction solution is added ethyl acetate, and the mixture is washed with a saturated aqueous potassium hydrogen sulfate solution and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The resulting residue is allowed to stand for one day, washed with dichloromethane, filtered, and dried to give 1-{2-methyl-4-[2-(5-tetrahydronaphthyloxy)acetylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.72 g) as white powder.

reactant | 1-[2-Methyl-4-(2-chloroacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.8 g | CC1=C(C(=O)N2CCCCC3=C2C=CC=C3)C=CC(=C1)NC(CCl)=O | C20H21ClN2O2
reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.51 g | [I-].[Na+]
reactant | 5,6,7,8-tetrahydro-1-naphthol | 0.40 g | C1(=CC=CC=2CCCCC12)O | C10H12O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-methyl-4-[2-(5-tetrahydronaphthyloxy)acetylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.72 g | CC1=C(C(=O)N2CCCCC3=C2C=CC=C3)C=CC(=C1)NC(COC1=C3CCCCC3=CC=C1)=O | C30H32N2O3
